US04812585
In 50 ml of toluene were dissolved 4.41 g (0.05 mole) of isobutyric acid, 5.34 g (0.065 mole) of 2-methylfuran and 14.39 g (0.06 mole) of dichloroacetic anhydride. To the resulting solution was added 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 50° C. for 3 hours. After completion of the reaction, the reaction solution was cooled and washed successively with 5% aqueous sodium carbonate solution and water. The organic layer was concentrated under reduced pressure and the resulting concentrated residue was then purified by silica gel-filled column chromatography to obtain 6.74 g of 2-isobutyryl-5-methylfuran.

reactant | isobutyric acid | 0.05 mole, 4.41 g | C(C(C)C)(=O)O | C4H8O2
reactant | 2-methylfuran | 0.065 mole, 5.34 g | CC=1OC=CC1 | C5H6O
reactant | dichloroacetic anhydride | 0.06 mole, 14.39 g | ClC(C(=O)OC(C(Cl)Cl)=O)Cl | C4H2Cl4O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-isobutyryl-5-methylfuran | 6.74 g, Yield: 88.6% | C(C(C)C)(=O)C=1OC(=CC1)C | C9H12O2
